US08685992B2
Preparation of 3-(4-methoxyphenyl)-5-phenyl-N-(4-{[(2-sulfanylethyl)amino]carbonyl}benzyl)-1H-pyrrole-2-carboxamide
This material was prepared using a method substantially similar to that of Example 22 from 4-[({[3-(4-methoxyphenyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoic acid and 2-(tritylsulfanyl)ethanamine hydrochloride, yielding the title compound 3-(4-methoxyphenyl)-5-phenyl-N-(4-{[(2-sulfanylethyl)amino]carbonyl}benzyl)-1H-pyrrole-2 carboxamide: Yield 70%; m.p. 131-132° C.; IR 3396, 3280, 1635, 1524, 1499, 1246 cm−1; 1H-NMR (500 MHz, δ ppm, CDCl3) 9.99 (s, 1H), 7.72 (d, J=8.1 Hz, 2H), 7.59 (d, J=7.6 Hz, 2H), 7.38 (t, J=7.7 Hz, 2H), 7.35 (d, J=8.5 Hz, 2H), 7.28 (t, J=7.5 Hz, 1H); 7.17 (d, J=8.0 Hz, 2H), 7.03 (t, J=5.5 Hz, 1H), 6.89 (d, J=8.5 Hz, 2H), 6.47 (d, J=2.9 Hz, 1H), 6.17 (t, J=5.8 Hz, 1H), 4.45 (d, J=5.9 Hz, 2H), 3.85-3.73 (m, 5H), 2.97 (t, J=6.2 Hz, 2H), 1.62 (s, 1H); 13C-NMR (75 MHz, δ ppm, CDCl3) 167.7, 161.7, 159.6, 142.4, 134.6, 133.4, 131.6, 130.8, 129.6, 129.2, 128.7, 128.5, 128.3, 127.7, 127.6, 124.9, 122.3, 114.7, 109.8, 55.6, 43.1, 39.5, 38.4, 29.9.

reactant | 4-[({[3-(4-methoxyphenyl)-5-phenyl-1H-pyrrol-2-yl]carbonyl}amino)methyl]benzoic acid | COC1=CC=C(C=C1)C1=C(NC(=C1)C1=CC=CC=C1)C(=O)NCC1=CC=C(C(=O)O)C=C1 | C26H22N2O4
reactant | 2-(tritylsulfanyl)ethanamine hydrochloride | Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)SCCN
product | 3-(4-methoxyphenyl)-5-phenyl-N-(4-{[(2-sulfanylethyl)amino]carbonyl}benzyl)-1H-pyrrole-2 carboxamide | COC1=CC=C(C=C1)C1=C(NC(=C1)C1=CC=CC=C1)C(=O)NCC1=CC=C(C=C1)C(=O)NCCS | C28H27N3O3S
